US04525356
N-[2-(1-Piperidyl)propyl]-3-methylflavone-8-carboxamide
To a solution of 4.00 g of 3-methylflavone-8-carboxylic acid and 1.98 ml of triethylamine in 74 ml of anhydrous tetrahydrofuran was added a solution of 1.50 ml of ethyl chlorocarbonate in 15 ml of anhydrous tetrahydrofuran under ice-cooling and the mixture was stirred for 1 hour. To the mixture, a solution of 2.03 g of 2-piperidinopropylamine in 20 ml of anhydrous tetrahydrofuran was added and the mixture was stirred for 1.5 hours under ice-cooling and further at room temperature for 16 hours. The reaction mixture was treated by the same procedure as in Examples 3(b) to give 4.15 g of colorless crystals, which were recrystallized from ethyl acetate as colorless needles, m.p. 106.5°-108.5° C.

reactant | 3-methylflavone-8-carboxylic acid | 4.00 g | CC1=C(OC2=C(C=CC=C2C1=O)C(=O)O)C1=CC=CC=C1 | C17H12O4
reactant | triethylamine | 1.98 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 1.50 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-piperidinopropylamine | 2.03 g | N1(CCCCC1)C(CN)C | C8H18N2
solvent | tetrahydrofuran | 74 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[2-(1-Piperidyl)propyl]-3-methylflavone-8-carboxamide | 4.15 g | N1(CCCCC1)C(CNC(=O)C=1C=CC=C2C(C(=C(OC12)C1=CC=CC=C1)C)=O)C | C25H28N2O3
